US06825191B2
Step 1 Synthesis of 1-(4-carboxybenzyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
300 mg (1.0 mmol) of 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 10 ml of DMF. 48 mg (1.2 mmol) of sodium hydride was added to the obtained solution, and they were stirred at room temperature for 30 minutes. 300 mg (1.3 mmol) of methyl 4-bromomethylbenzoate was added to the obtained mixture, and they were stirred at 60° C. overnight. After the treatment with ethyl acetate as the extracting solvent, the obtained crude product was stirred together with 2 ml of THF, 2 ml of ethanol and 2 ml of 1 N aqueous sodium hydroxide solution at room temperature overnight. The obtained product was treated with ethyl acetate as the extracting solvent by an ordinary method to obtain the crude product.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 1.0 mmol, 300 mg | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 1.2 mmol, 48 mg | [H-].[Na+]
reactant | methyl 4-bromomethylbenzoate | 1.3 mmol, 300 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(4-carboxybenzyl)-4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | C(=O)(O)C1=CC=C(CN2C(CN(CC3=C2C=CC=C3)C(C3=CC=C(C=C3)Cl)=O)=O)C=C1 | C24H19ClN2O4
